US07989461B2
8-Iodo-2,7-dimethyl-N-(3-(trifluoromethoxy)phenyl)quinazolin-4-amine (0.250 g, 0.544 mmol), N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (0.186 g, 0.653 mmol), tetrakis(triphenylphosphine) palladium(0) (0.0629 g, 0.0544 mmol) and 2 M aqueous sodium carbonate (0.544 mL, 1.09 mmol) were placed in a microwave vial and dioxane (3 mL) was added. The tube was capped and heated in a microwave reactor at 150° C. for 10 min. The mixture was concentrated in vacuo and the residue dissolved in ethyl acetate and washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was dried with sodium sulfate and then purified by column chromatography on silica gel using a gradient of 20 to 80% EtOAc in hexanes. The clean fractions were combined and concentrated under vacuum to give a yellow film. The film was triturated with a 1:1 mixture of ether and hexanes. This resulted in the formation of an off-white solid which was collected by filtration and dried in a vacuum oven to give 6-(2,7-dimethyl-4-(3-(trifluoro-methoxy)phenylamino)quinazolin-8-yl)-N-methylquinazolin-2-amine (0.212 g, 79%). MS (M+H)+ 491.

reactant | 8-Iodo-2,7-dimethyl-N-(3-(trifluoromethoxy)phenyl)quinazolin-4-amine | 0.544 mmol, 0.250 g | IC=1C(=CC=C2C(=NC(=NC12)C)NC1=CC(=CC=C1)OC(F)(F)F)C | C17H13F3IN3O
reactant | N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 0.653 mmol, 0.186 g | CNC1=NC2=CC=C(C=C2C=N1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
reactant | sodium carbonate | 1.09 mmol, 2 M, 0.544 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.0544 mmol, 0.0629 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(2,7-dimethyl-4-(3-(trifluoro-methoxy)phenylamino)quinazolin-8-yl)-N-methylquinazolin-2-amine | 0.212 g, 79% | CC1=NC2=C(C(=CC=C2C(=N1)NC1=CC(=CC=C1)OC(F)(F)F)C)C=1C=C2C=NC(=NC2=CC1)NC | C26H21F3N6O
